US05475034
2-Amino-3-(4-fluorobenzoyl)-α(methylthio)-N-3-(3,4-dimethoxyphenyl)propyl acetamide, Compound 6
To a solution of 21.5 g (0.1 mole) of 2-amino- 4'-fluoro-benzophenone in 400 mL of methylene chloride, cooled to -70° C. is added 11.5 g (0.1 mole) of 95% t-butylhypochlorite over 15 min, keeping the temperature below -66° C. To this solution is added a solution of α-(methylthio)-N-3-(3,4-dimethoxyphenyl)propylacetamide (0.1 mole) in 50 mL of methylene chloride over a ten minute period. The solution is stirred for 1 h at -65° to -70° C. and then is allowed to warm to 0° C. Triethylamine (0.1 mole) is added and the resulting solution is washed with water. The organic solution is dried with magnesium sulfate, and concentrated in vacuo. The product is isolated using standard conditions.

reactant | 2-amino- 4'-fluoro-benzophenone | 0.1 mole, 21.5 g | NC1=C(C(=O)C2=CC=C(C=C2)F)C=CC=C1 | C13H10FNO
reactant | t-butylhypochlorite | 0.1 mole, 11.5 g | C(C)(C)(C)OCl | C4H9ClO
reactant | α-(methylthio)-N-3-(3,4-dimethoxyphenyl)propylacetamide | 0.1 mole | CSCC(=O)NCCCC1=CC(=C(C=C1)OC)OC | C14H21NO3S
reactant | Triethylamine | 0.1 mole | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Amino-3-(4-fluorobenzoyl)-α(methylthio)-N-3-(3,4-dimethoxyphenyl)propyl acetamide | NC(C(=O)NCCC(C1=CC(=C(C=C1)OC)OC)C(C1=CC=C(C=C1)F)=O)SC | C21H25FN2O4S
